US04876269
A solution of methanesulfonyl chloride (6 g) in methylene chloride (50 ml) was added dropwise rapidly to a stirred and cooled (0°-5°) solution of trans-2,3-dihydro-2-hydroxy-(pyrrolidin-1-yl)-1H-indene (5.5 g) and triethylamine (6 ml) in methylene chloride (200 ml). After the addition was complete, the mixture was stirred at room temperature for 3 hours and then evaporated under reduced pressure. The residue was treated with a 33% solution of methylamine in ethanol (100 ml) and the mixture was stirred at reflux for 3 hours and evaporated under reduced pressure. The residue was treated with water and extracted twice with ether. The combined ether extracts were washed successively with 2N sodium hydroxide solution and water, dried over magnesium sulfate and evaporated under reduced pressure to yield a liquid which was distilled under vacuum to give trans-2,3-dihydro-1-methylamino-2-(pyrrolidin-1-yl)-1H-indene (6.3 g) b.p. 118°-120°/0.25 torr.

reactant | methanesulfonyl chloride | 6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-2,3-dihydro-2-hydroxy-(pyrrolidin-1-yl)-1H-indene | 5.5 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)N1CCCC1 | C13H17NO
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | trans-2,3-dihydro-1-methylamino-2-(pyrrolidin-1-yl)-1H-indene | 6.3 g | CN[C@H]1[C@@H](CC2=CC=CC=C12)N1CCCC1 | C14H20N2
